US07166598B2
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(4-methyl-3-trifluoromethanesulfonyloxybenzyl)-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]piperazine (0.10 g), benzophenone imine (30.5 mg), cesium carbonate (62 mg), palladium acetate (3 mg), and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (12.7 mg) in toluene was stirred at 80° C. under nitrogen atmosphere for 22 hours. After cooling, water and ethyl acetate were added to the mixture and the organic layer was separated, washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (NH-DM1020, Fuji Silysia Chemical Ltd.) with a mixture of hexane and ethyl acetate (3:1) as eluent to give (2R)-1-[3,5-bis(trifluorometh yl)benzoyl]-2-[3-(diphenylmethyleneamino)-4-methylbenzyl]-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]piperazine (75 mg) as an oil.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(4-methyl-3-trifluoromethanesulfonyloxybenzyl)-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]piperazine | 0.10 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C)OS(=O)(=O)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C30H34F9N3O6S
reactant | benzophenone imine | 30.5 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | cesium carbonate | 62 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 12.7 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (2R)-1-[3,5-bis(trifluorometh yl)benzoyl]-2-[3-(diphenylmethyleneamino)-4-methylbenzyl]-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]piperazine | 75 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C)N=C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C42H44F6N4O3
